US07576215B2
3-BENZYL-4-{3-[(1-METHYL-1H-INDOL-3-YL)METHOXY]PHENYL}-8-(TRIFLUOROMETHYL) QUINOLINE
The title compound was prepared from 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol and (1-methyl-1H-indol-3-yl)-methanol according to the procedure of Example 69. MS (ES) m/z 523.1.

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | (1-methyl-1H-indol-3-yl)-methanol | CN1C=C(C2=CC=CC=C12)CO | C10H11NO
product | 3-BENZYL-4-{3-[(1-METHYL-1H-INDOL-3-YL)METHOXY]PHENYL}-8-(TRIFLUOROMETHYL) QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1=CN(C2=CC=CC=C12)C)C(F)(F)F | C33H25F3N2O
